US08183264B2
(5-Phenoxy-thiophen-2-yl)-methanol
To a solution of THF (60 mL) and 5-phenoxy-thiophene-2-carbaldehyde (2.8 g) was added LAH (390 mg) at 0° C., which was stirred for 10 minutes at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate. The solvent was evaporated under a reduced pressure and the organic layer was purified by NH silica gel chromatography (ethyl acetate), and then purified by silica gel chromatography (hexane:ethyl acetate=4:1, then 2:1) to obtain the titled compound (2.0 g).

reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | 5-phenoxy-thiophene-2-carbaldehyde | 2.8 g | O(C1=CC=CC=C1)C1=CC=C(S1)C=O | C11H8O2S
reactant | LAH | 390 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Water | O | H2O
product | (5-Phenoxy-thiophen-2-yl)-methanol | 2.0 g | O(C1=CC=CC=C1)C1=CC=C(S1)CO | C11H10O2S
